US07141575B2
6-Chloro-N4-(3-nitrobenzyl)pyrimidine-2,4,5-triamine
A mixture of 4,6-dichloropyrimidine-2,5-diamine (700 mg, 3.91 mmol), 3-nitrobenzylamine hydrochloride (885 mg, 4.69 mmol) and triethylamine (1.6 mL, 11.7 mmol) in n-BuOH (20 mL) was refluxed for 17 h, concentrated in vacuo and the residue partitioned between EtOAc (10 mL) and H2O (5 mL). The organic phase was dried (MgSO4) and concentrated in vacuo to give the title compound as an orange solid (906 mg, 76%) which was used in the next reaction without further purification; NMR δH (400 MHz, CDCl3) 8.16 (1H, s), 8.10 (1H, d, J 8.0 Hz), 7.80 (1H, d, J 7.5 Hz), 7.62 (1H, t, J 7.5 Hz), 7.25 (1H, t, J 6.0 Hz), 5.69 (2H, s), 4.67 (2H, d, J 6.0 Hz) and 3.93 (2H, br s).

reactant | 4,6-dichloropyrimidine-2,5-diamine | 3.91 mmol, 700 mg | ClC1=NC(=NC(=C1N)Cl)N | C4H4Cl2N4
reactant | 3-nitrobenzylamine hydrochloride | 4.69 mmol, 885 mg | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | triethylamine | 11.7 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | n-BuOH | 20 mL | CCCCO | C4H10O
product | 6-Chloro-N4-(3-nitrobenzyl)pyrimidine-2,4,5-triamine | 906 mg, 76% | ClC1=C(C(=NC(=N1)N)NCC1=CC(=CC=C1)[N+](=O)[O-])N | C11H11ClN6O2
